US07199257B1
N-[4-cyano-3-trifluoromethyl-phenyl]-2,3-dihydroxy-2-methyl-propionamide
To a solution of 44 g (0.236 mol) of 4-cyano-3-trifluoromethyl-aniline in 880 ml of dichloromethane 90 ml of triethylamine was added and the reaction mixture was cooled to −15° C. 64 ml (0.49 mol) of 4-chloro-carbonyl-4-methyl-1,3,2-dioxathiolane-2-one was added dropwise at this temperature. The reaction mixture was stirred at 0° C. for 3 h, then extracted with 500 ml of 10% hydrochloric acid solution, the organic layer was dried over sodium sulfate and concentrated under diminished pressure. The residue was dissolved in 1 l of tetrahydrofuran and 440 ml of 10% sodium hydroxide solution was added at 10° C. with cooling. The mixture was stirred for 30 min, then the pH was adjusted to 2 by adding 88 ml of concentrated hydrochloric acid and the solution was evaporated to a volume of 100 ml. The residue was dissolved in 260 ml of ethyl acetate, treated with charcoal, filtered and 520 ml of petroleum ether was added to the filtrate. The precipitated crystals were filtered off and dried at 60° C. in vacuum. The compounds below were synthesized analogously, using the same quantity of the starting material:

reactant | 4-cyano-3-trifluoromethyl-aniline | 0.236 mol, 44 g | C(#N)C1=C(C=C(N)C=C1)C(F)(F)F | C8H5F3N2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 4-chloro-carbonyl-4-methyl-1,3,2-dioxathiolane-2-one | 0.49 mol, 64 ml | ClC1(OS(OC1=C=O)=O)C | C4H3ClO4S
solvent | dichloromethane | 880 ml | ClCCl | CH2Cl2
product | N-[4-cyano-3-trifluoromethyl-phenyl]-2,3-dihydroxy-2-methyl-propionamide | C(#N)C1=C(C=C(C=C1)NC(C(CO)(C)O)=O)C(F)(F)F | C12H11F3N2O3
